US07851473B2
(2) 2-Bromo-4-(2-chlorophenyl)-1,3-thiazole
A 25% hydrogen bromide/acetic acid (50 ml) solution was added to a solution of 2-(2-chlorophenyl)-2-oxoethyl thiocyanate (5.15 g, 24.3 mmol) in acetic acid (50 ml), and the mixture was stirred at 130° C. for 2 hours. Water (100 ml) was poured to the reaction mixture, and crystals were collected by filtration and washed with water to give 4.48 g (67.1%) of the desired product as a solid.

reactant | hydrogen bromide acetic acid | 50 ml | Br.C(C)(=O)O
reactant | 2-(2-chlorophenyl)-2-oxoethyl thiocyanate | 24.3 mmol, 5.15 g | ClC1=C(C=CC=C1)C(CSC#N)=O | C9H6ClNOS
reactant | Water | 100 ml | O | H2O
solvent | acetic acid | 50 ml | C(C)(=O)O | C2H4O2
product | 2-Bromo-4-(2-chlorophenyl)-1,3-thiazole | 4.48 g, 67.1% | BrC=1SC=C(N1)C1=C(C=CC=C1)Cl | C9H5BrClNS
